Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Ampicillin
 
Attending: ___
 
Chief Complaint:
Bilateral leg cramping and numbness
 
Major Surgical or Invasive Procedure:
___ - L2-L4 laminectomy

 
History of Present Illness:
Patient is a very pleasant ___ female who has been 
having problems of lumbar radiculopathy and neurogenic 
claudication.  She is describing one year of low back pain and 
discomfort and difficulty walking long distances.  She cannot 
stand up for a long period of time before she starts to get 
significant numbness in both legs.  No description of bowel or 
bladder dysfunction.  However, she does have the need to bend 
forward and walk hunched over.  Sitting down helps a lot and she 
can do more than a block or two at the most without having to 
sit down.  She has not tried formal physical therapy, but she 
tried
activity modification without any results.  Has not had any 
injections.  She has tried conservative medical management 
without results.
 
Past Medical History:
Spinal stenosis
Migraines with aura
Prior stroke with alexia
Depression
 
Social History:
___
Family History:
NC
 
Physical Exam:
Physical exam on discharge:
Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [ ]Place [ ]Time

Follows commands: [ ]Simple [x]Complex [x]None

Face Symmetric: [x]Yes [ ]No  Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: 
          [x]Clean, dry, intact, staples intact. drain site with
gauze, CDI. 
 
Pertinent Results:
Lab results available for review in ___
 
Brief Hospital Course:
Patient presented directly for L2-L4 laminectomy. For full 
details please refer to the operative report. Patient tolerated 
the procedure well and recovered appropriately in PACU. Patient 
was then transferred to the floor. 

Remainder of hospital course as follows:

Neuro: Pain was well controlled with Tylenol, oxycodone as 
needed, and IV morphine for breakthrough pain.
CV: No issues
Resp: No issues. Patient was extubated and weaned to room air.
GI: Patient's diet was advanced to their pre-hospital diet 
without issues.
GU: Patient did not have a foley. Patient subsequently voided 
without issue.
Heme: Patient was given venodyne boots and subcutaneous heparin 
starting the evening of POD1 for DVT prophylaxis.
ID: Patient received routine perioperative antibiotics.
Activity: Patient was evaluated by physical therapy who 
recommended discharge to home with home services.
Tubes/Lines/Drains: Patient had a hemovac drain that was removed 
on POD2 without complication. 

At the time of discharge, patient was tolerating a regular diet, 
voiding, doing activity as appropriate. She was given 
appropriate prescriptions and instructions to followup in clinic 
for staple removal and follow up visits. 

 
Medications on Admission:
betamethasone dipropionate 0.05 % topical cream
apply on affected areas twice a day apply thin layer (Not Taking 
as Prescribed)
Zoloft 25 mg tablet ___ tablet(s) by mouth daily
daily simvastatin 40 mg tablet 
Buffered Aspirin 325 mg tablet daily 
daily omeprazole magnesium 20 mg tablet,delayed release

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Daily 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
Partial fill upon request. Do not drive while taking. 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6hrs PRN Disp #*28 
Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Sertraline 50 mg PO DAILY  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lumbar stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions

Spine Surgery without Fusion

Surgery

·Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.
· Do not apply any lotions or creams to the site.
· Please avoid swimming for two weeks after staple removal.
· Call your surgeon if there are any signs of infection like 
redness, fever, or drainage.

Activity

· We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
· You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
· No driving while taking any narcotic or sedating medication.
· No contact sports until cleared by your neurosurgeon.
 
Medications

· Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon.
- You may resume your daily Aspirin when you go home starting 
___.
· You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
· It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation.

When to Call Your Doctor at ___ for:

· Severe pain, swelling, redness or drainage from the incision 
site.
· Fever greater than 101.5 degrees Fahrenheit
· New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___